US03993683
[1-(2'-Fluoro-4-biphenylyl)-ethylsulfinyl]-acetic acid-(2-methoxy-ethyl)-ester
A suspension of 5.0 gm (16.4 millimols) of [1-(2'-fluoro-4-biphenylyl)-ethylsulfinyl]-acetic acid, m.p. 164° - 165° C, in 50 ml of dry tetrahydrofuran was admixed with 2.92 gm (18.1 millimols) of carbonyldiimidazole, whereupon the acid dissolved and carbon dioxide was given off. After one hour, 1.37 gm (18.1 millimols) of glycol monomethyl ether were added, and the mixture was allowed to stand for 2 hours. For isolation of the reaction product, the mixture was evaporated, and the residue was distributed between dilute hydrochloric acid and ethyl acetate, and the organic solution was purified by chromatography on 180 gm of silicagel with cyclohexane/ethyl acetate = 1/4. For further purification, the product mixture was recrystallized from cyclohexane/ethyl acetate = 4/1. Yield: 3.8 gm (63.8% of theory); m.p. 65°-67° C.

reactant | [1-(2'-fluoro-4-biphenylyl)-ethylsulfinyl]-acetic acid | 16.4 millimols, 5.0 gm | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(C)S(=O)CC(=O)O | C16H15FO3S
reactant | carbonyldiimidazole | 18.1 millimols, 2.92 gm | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | carbon dioxide | C(=O)=O | CO2
reactant | glycol monomethyl ether | 18.1 millimols, 1.37 gm | COCCO | C3H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | [1-(2'-Fluoro-4-biphenylyl)-ethylsulfinyl]-acetic acid-(2-methoxy-ethyl)-ester | COCCOC(CS(=O)C(C)C1=CC=C(C=C1)C1=C(C=CC=C1)F)=O | C19H21FO4S
